Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[O:12][H:13].[O:5]=[C:6]([H:7])[H:8],-1.97238998097
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-1.72080236953
[H:1][C:2]/[C:3]([H:4])=[C:5]1/[C:6][C@:7]1([H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10],-1.42979354791
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.87232564235
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:8](=[O:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.21493983246
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.336915322361
[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1].[O:2]=[C:3]=[C:4]([H:5])[H:6],-0.826278526549
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.93755190281
[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.14624431589
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6]>>[C:1].[C:2][C:3]([H:4])([H:5])[H:6],7.407337126900001
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],4.54241099995
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.06147587787
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[C:8][O:9][H:10],4.45265157476
[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.74166551114
[C:2]([H:3])=[C:4]([C:5]#[C:6][H:7])[O:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9],-6.5915714686800015
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],5.57624414314
[H:10].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.61483783917
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[O:1],6.11199629268
[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],3.1603000756299995
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3],5.86771908217
[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[H:7],4.31123911595
[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[O:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11],-2.97058966602
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.75000111719
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-1.85268431377
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])[C:5][C:6](=[O:7])[C:12]([H:13])([H:14])[H:15],2.22930603921
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.263589553380001
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.611652925
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3][O:4][C:5][H:6]>>[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.57679952128
[C:2]([H:3])#[C:4][O:5][C:6]([H:7])=[C:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8][H:9],-3.55244210273
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.23850105505
